US09359381B2
Step 2: rac-10-(5-Chlorofuran-2-yl)-5-(4-(hydroxymethyl)thiazol-2-yl)-1,3-dimethyl-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione
Sodium borohydride (45.1 mg, 1.191 mmol) was added to a solution of ethyl 2-(10-(5-chlorofuran-2-yl)-1,3-dimethyl-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazin-5-yl)thiazole-4-carboxylate (302 mg, 0.596 mmol) and lithium chloride (50.5 mg, 1.191 mmol) in ethanol (7.50 ml) and THF (15 ml) at 0° C. The mixture was warmed to room temperature and stirred for 7 hours. Further portions of lithium chloride (50.5 mg, 1.191 mmol) and sodium borohydride (45.1 mg, 1.191 mmol) were added to allow the reaction to run to completion. The reaction was quenched with saturated NaHCO3(aq) solution (50 ml), diluted with water (20 ml) and extracted with DCM (3×75 ml). The combined organic extracts were washed with water (20 ml), passed though a hydrophobic frit and evaporated under vacuum to afford the title compound.

reactant | Sodium borohydride | 1.191 mmol, 45.1 mg | [BH4-].[Na+]
reactant | ethyl 2-(10-(5-chlorofuran-2-yl)-1,3-dimethyl-2,4-dioxo-2,3,4,7,8,10-hexahydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazin-5-yl)thiazole-4-carboxylate | 0.596 mmol, 302 mg | ClC1=CC=C(O1)C1SCCN2C1=C1C(=C2C=2SC=C(N2)C(=O)OCC)C(N(C(N1C)=O)C)=O | C21H19ClN4O5S2
reactant | lithium chloride | 1.191 mmol, 50.5 mg | [Cl-].[Li+]
reactant | lithium chloride | 1.191 mmol, 50.5 mg | [Cl-].[Li+]
reactant | sodium borohydride | 1.191 mmol, 45.1 mg | [BH4-].[Na+]
solvent | ethanol | 7.50 ml | C(C)O | C2H6O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | rac-10-(5-Chlorofuran-2-yl)-5-(4-(hydroxymethyl)thiazol-2-yl)-1,3-dimethyl-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione | ClC1=CC=C(O1)C1SCCN2C1=C1C(=C2C=2SC=C(N2)CO)C(N(C(N1C)=O)C)=O | C19H17ClN4O4S2
